US05089496
E. 8-CHLORO-11-(4-PIPERIDYLIDENE)-11H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDINE
A mixture of 210 mg (0.434 mmole) of 8-chloro-11-[1-(2,2,2-trichloroethoxycarbonyl)-4-piperidylidene)-11H-benzo-[5,6]cyclohepta[1,2-b]pyridine and 526 mg (8.05 mmole) of zinc dust in 0.4 mL of acetic acid was heated at 60°-70° C. After 2 hr. 20 min. another 547 mg (8.37 mmole) of zinc dust was added. After another 30 min. the mixture was basified with 10% aqueous NaOH and extracted four times with CH2Cl2. The combined organic portions were washed once with water, dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified via flash chromatography [5→6% MeOH/NH3 in CHCl3 ] to yield 71 mg (53%) of the title compound as a glass.

reactant | 8-chloro-11-[1-(2,2,2-trichloroethoxycarbonyl)-4-piperidylidene)-11H-benzo-[5,6]cyclohepta[1,2-b]pyridine | 0.434 mmole, 210 mg | ClC=1C=CC2=C(C=CC=3C(=NC=CC3)C2=C2CCN(CC2)C(=O)OCC(Cl)(Cl)Cl)C1 | C22H18Cl4N2O2
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 0.4 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 8.05 mmole, 526 mg | [Zn] | Zn
catalyst | zinc | 8.37 mmole, 547 mg | [Zn] | Zn
product | 8-CHLORO-11-(4-PIPERIDYLIDENE)-11H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDINE | 71 mg, 53% | ClC=1C=CC2=C(C=CC=3C(=NC=CC3)C2=C2CCNCC2)C1 | C19H17ClN2
